### PR TITLE
feat(OEIS): A067220

### LINKED ISSUE #1456: math.CO/0409509 number 37
### What is the conjecture

$$
\phi(n^2+1)=n\phi(n+1) \implies n=8 \vee (\text{$(n^2+1)$ is prime and $n+1$ is prime})
$$

(corrected from paper) See https://oeis.org/A067720.
### Prerequisites needed

Status: open

### Choose either option
- [ ] I plan on adding this conjecture to the repository
- [X] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by rwst**
Resolves #1456.

# **Conjectures associated with A067720**

A067720 lists numbers $k$ such that $\varphi(k^2 + 1) = k \cdot \varphi(k + 1)$,
where $\varphi$ is Euler's totient function.

The sequence exhibits a strong connection to primes: for almost all terms $k$,
$k + 1$ is prime. The conjecture states that $k = 8$ is the only exception.

*References:* [oeis.org/A067720](https://oeis.org/A067720)

 Note: I'm using Claude + Opus for supervised formalization tasks. Claude has no permission to use git on my machine.

### CODE REVIEW

File: FormalConjectures/OEIS/067720.lean [hunk 1]
```diff
@@ -0,0 +1,86 @@
...
+namespace OeisA067720
+
+/-- A number $k$ is in the sequence A067720 if $\varphi(k^2 + 1) = k \cdot \varphi(k + 1)$. -/
+def a (k : ℕ) : Prop :=
+  Nat.totient (k ^ 2 + 1) = k * Nat.totient (k + 1)
+
+/-- $1$ is in the sequence A067720. -/
+@[category test, AMS 11]
+theorem a_1 : a 1 := by
+  unfold a; native_decide
```
Comment (felixpernegger) [inline FormalConjectures/OEIS/067720.lean]:
```suggestion
theorem a_1 : a 1 := by norm_num [a]
```

I think this is preferable. Similar for the other values

File: FormalConjectures/OEIS/067720.lean [hunk 2]
```diff
@@ -0,0 +1,86 @@
...
+/-- $10$ is in the sequence A067720. -/
+@[category test, AMS 11]
+theorem a_10 : a 10 := by
+  unfold a; native_decide
+
+/-- $8 + 1 = 9$ is not prime, showing $8$ is an exception. -/
+@[category test, AMS 11]
+theorem not_prime_9 : ¬ (8 + 1 : ℕ).Prime := by
+  native_decide
+
```
Comment (felixpernegger) [inline FormalConjectures/OEIS/067720.lean]: there is not really a point in having this

File: FormalConjectures/OEIS/067720.lean (hunk 1 above)
Comment (rwst) [reply FormalConjectures/OEIS/067720.lean]: `norm_num` works only for `a_1`.

File: FormalConjectures/OEIS/67720.lean [hunk 3]
```diff
@@ -0,0 +1,86 @@
...
+
+A067720 lists numbers $k$ such that $\varphi(k^2 + 1) = k \cdot \varphi(k + 1)$,
+where $\varphi$ is Euler's totient function.
+
+The sequence exhibits a strong connection to primes: for almost all terms $k$,
+$k + 1$ is prime. The conjecture states that $k = 8$ is the only exception.
+
+*References:* [oeis.org/A067720](https://oeis.org/A067720)
+-/
+
```
Comment (felixpernegger) [inline FormalConjectures/OEIS/67720.lean:29]:
```suggestion
Open Nat

```

File: FormalConjectures/OEIS/067720.lean [hunk 4]
```diff
@@ -0,0 +1,86 @@
...
+$k + 1$ is prime. The conjecture states that $k = 8$ is the only exception.
+
+*References:* [oeis.org/A067720](https://oeis.org/A067720)
+-/
+
+namespace OeisA067720
+
+/-- A number $k$ is in the sequence A067720 if $\varphi(k^2 + 1) = k \cdot \varphi(k + 1)$. -/
+def a (k : ℕ) : Prop :=
+  Nat.totient (k ^ 2 + 1) = k * Nat.totient (k + 1)
```
Comment (felixpernegger) [inline FormalConjectures/OEIS/067720.lean]:
```suggestion
def a (k : ℕ) : Prop :=
  φ (k ^ 2 + 1) = k * φ (k + 1)
```

File: FormalConjectures/OEIS/067720.lean [hunk 5]
```diff
@@ -0,0 +1,86 @@
...
+  unfold a; native_decide
+
+/-- $8 + 1 = 9$ is not prime, showing $8$ is an exception. -/
+@[category test, AMS 11]
+theorem not_prime_9 : ¬ (8 + 1 : ℕ).Prime := by
+  native_decide
+
+/-- If $k + 1$ and $k^2 + 1$ are both prime, then $k$ is in the sequence. -/
+@[category undergraduate, AMS 11]
+theorem a_of_primes (k : ℕ) (hk1 : (k + 1).Prime) (hk2 : (k ^ 2 + 1).Prime) : a k := by
```
Comment (felixpernegger) [inline FormalConjectures/OEIS/067720.lean]:
```suggestion
theorem a_of_primes {k : ℕ} (hk : (k + 1).Prime) (hk' : (k ^ 2 + 1).Prime) : a k := by
```

File: FormalConjectures/OEIS/067720.lean [hunk 6]
```diff
@@ -0,0 +1,86 @@
...
+  sorry
+
+/-- For members of the sequence other than $8$, we have $k + 1$ is prime. -/
+@[category research open, AMS 11]
+theorem prime_add_one_of_a (k : ℕ) (h : a k) (hne : k ≠ 8) : (k + 1).Prime := by
```
Comment (felixpernegger) [inline FormalConjectures/OEIS/067720.lean]:
```suggestion
theorem prime_add_one_of_a {k : ℕ} (h : a k) (hne : k ≠ 8) : (k + 1).Prime := by
```
smart you noticed we dont need k^2+1 as requirement :)

File: FormalConjectures/OEIS/067720.lean [hunk 7]
```diff
@@ -0,0 +1,86 @@
...
+  sorry
+
+/-- $8$ is the only member of the sequence where $k + 1$ is composite. -/
+@[category research open, AMS 11]
+theorem unique_composite_8 (k : ℕ) (h : a k) (hcomp : ¬ (k + 1).Prime) : k = 8 := by
+  sorry
```
Comment (felixpernegger) [inline FormalConjectures/OEIS/067720.lean]: remove this, this is just the contrapose of the theorem before

File: FormalConjectures/OEIS/067720.lean [hunk 8]
```diff
@@ -0,0 +1,86 @@
...
+
+/-- $8 + 1 = 9$ is not prime, showing $8$ is an exception. -/
+@[category test, AMS 11]
+theorem not_prime_9 : ¬ (8 + 1 : ℕ).Prime := by
+  native_decide
+
+/-- If $k + 1$ and $k^2 + 1$ are both prime, then $k$ is in the sequence. -/
+@[category undergraduate, AMS 11]
+theorem a_of_primes (k : ℕ) (hk1 : (k + 1).Prime) (hk2 : (k ^ 2 + 1).Prime) : a k := by
+  sorry
```
Comment (felixpernegger) [inline FormalConjectures/OEIS/067720.lean]:
```suggestion
  rw [a, totient_prime hk1, totient_prime hk2, Nat.add_sub_cancel, Nat.add_sub_cancel, sq]
```
fill in proof

**Comment by felixpernegger** [comment]
nice conjecture!

File: FormalConjectures/OEIS/067720.lean (hunk 6 above)
Comment (rwst) [reply FormalConjectures/OEIS/067720.lean]: that was Claude.

Comment (felixpernegger) [reply FormalConjectures/OEIS/067720.lean]: Please disclose in the PR description if you are using AI tools.

File: FormalConjectures/OEIS/67720.lean [hunk 9]
```diff
@@ -0,0 +1,77 @@
...
+  φ (k ^ 2 + 1) = k * φ (k + 1)
+
+/-- $1$ is in the sequence A067720. -/
+@[category test, AMS 11]
+theorem a_1 : a 1 := by norm_num [a]
+
+/-- $2$ is in the sequence A067720. -/
+@[category test, AMS 11]
+theorem a_2 : a 2 := by
+  unfold a; decide
```
Comment (felixpernegger) [inline FormalConjectures/OEIS/67720.lean]:
```suggestion
@[category test, AMS 11]
theorem a_2 : a 2 := by
  simp +decide only [a]
```
maybe this is prettier? not sure to be honest

File: FormalConjectures/OEIS/67720.lean [hunk 10]
```diff
@@ -0,0 +1,77 @@
...
+
+/-- $2$ is in the sequence A067720. -/
+@[category test, AMS 11]
+theorem a_2 : a 2 := by
+  simp +decide only [a]
+
+/-- $4$ is in the sequence A067720. -/
+@[category test, AMS 11]
+theorem a_4 : a 4 := by
+  unfold a; decide
```
Comment (felixpernegger) [inline FormalConjectures/OEIS/67720.lean]: for the other ones as well
